US06090833
213 mg of 2-bromo-5-(3-trifluoromethylphenyl)indan-1-one and 48.8 mg of thioacetamide are dissolved in 10 ml of dry acetone and the solution is stirred at 0° C. for 8 h. The precipitate is filtered off with suction, washed with acetone and dried in a high vacuum. 2-Methyl-6-(3-trifluoromethylphenyl)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide of melting point 245-250° C. (dec.) is obtained.

reactant | 2-bromo-5-(3-trifluoromethylphenyl)indan-1-one | 213 mg | BrC1C(C2=CC=C(C=C2C1)C1=CC(=CC=C1)C(F)(F)F)=O | C16H10BrF3O
reactant | thioacetamide | 48.8 mg | C(C)(=S)N | C2H5NS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-Methyl-6-(3-trifluoromethylphenyl)-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.CC=1SC2C(N1)(C=1C=CC(=CC1C2)C2=CC(=CC=C2)C(F)(F)F)O | InChI=1S/C18H14F3NOS.BrH/c1-10-22-17(23)15-6-5-12(7-13(15)9-16(17)24-10)11-3-2-4-14(8-11)18(19,20)21;/h2-8,16,23H,9H2,1H3;1H
